US06878714B2
N-[3-(3-Piperidin-1-yl-propyl)-5-trifluoromethyl-phenyl]-acetamide (1.33 g) was dissolved in EtOH (40 ml) and 12 N HCl (40 ml) was added. After stirring overnight at 70° C. and RT, the mixture was concentrated in vacuo, affording 3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenylamine as a brown oil.

reactant | N-[3-(3-Piperidin-1-yl-propyl)-5-trifluoromethyl-phenyl]-acetamide | 1.33 g | N1(CCCCC1)CCCC=1C=C(C=C(C1)C(F)(F)F)NC(C)=O | C17H23F3N2O
reactant | HCl | 12 N, 40 ml | Cl | ClH
solvent | EtOH | 40 ml | CCO | C2H6O
product | 3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenylamine | N1(CCCCC1)CCCC=1C=C(C=C(C1)C(F)(F)F)N | C15H21F3N2
